US07667041B2
Synthesis of 1-naphthalen-1-ylmethyl-piperidin-2-one
To a DMF (20 mL) solution of 6-valerolactam (1.0 g), sodium hydride (404 mg), 1-(chloromethyl)naphthalene (1.78 g) and sodium iodide (151 mg) were added one by one at 0° C., and the reaction solution was allowed to be warmed to 60° C., and was agitated for 6 hours. 2N hydrochloric acid and THF were added to the reaction solution, and the organic layer was partitioned. After the obtained organic layer was washed with a saturated saline solution, it was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (heptane:elution solvent; ethyl acetate=1:2→ethyl acetate), and 2.42 g of the title compound was obtained. The physical properties of the compound are as follows.

reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | sodium hydride | 404 mg | [H-].[Na+]
reactant | 1-(chloromethyl)naphthalene | 1.78 g | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | THF | C1CCOC1 | C4H8O
catalyst | sodium iodide | 151 mg | [I-].[Na+]
product | 1-naphthalen-1-ylmethyl-piperidin-2-one | 2.42 g | C1(=CC=CC2=CC=CC=C12)CN1C(CCCC1)=O | C16H17NO
